US07838524B2
Preparation of 5-tert-butyl-2-[4-(2-methoxyethoxy)phenyl]-2H-pyrazol-3-ylamine
A mixture of 4-(5-amino-3-tert-butyl-pyrazol-1-yl)phenol (500 mg, 2.16 mmol), 2-methoxyethanol (164.5 mg, 2.16 mmol), ADDP (818.2 mg, 3.24 mmol, 1.5 eq), and triphenylphosphine (850.5 mg, 3.24 mmol, 1.5 eq) in anhydrous THF was stirred at ambient temperature under nitrogen for 18 h. The reaction mixture was poured into EtOAc, and the organic layer was washed with water and brine, dried over Na2SO4, filtered, and concentrated at reduced pressure. Purification by MPLC (eluting with 25% EtOAc/hexane) gave an oil which solidified upon standing, 507 mg (81%). 1H-NMR (DMSO-d6) δ 7.39 (dd, J=6.6, 2.4 Hz, 2H), 6.97 (dd, J=6.9, 2.7 Hz, 2H), 5.30 (s, 1H), 5.02 (broad s, 2H), 4.09 to 4.06 (m, 2H), 3.65 to 3.62 (m, 2H), 3.28 (s, 3H), 1.16 (s, 9H); MS LC-MS [M+H]+=290, RT=1.35 min.

reactant | 4-(5-amino-3-tert-butyl-pyrazol-1-yl)phenol | 2.16 mmol, 500 mg | NC1=CC(=NN1C1=CC=C(C=C1)O)C(C)(C)C | C13H17N3O
reactant | 2-methoxyethanol | 2.16 mmol, 164.5 mg | COCCO | C3H8O2
reactant | ADDP | 3.24 mmol, 818.2 mg, 1.5 eq | C1CCN(CC1)C(=O)N=NC(=O)N2CCCCC2 | C12H20N4O2
reactant | triphenylphosphine | 3.24 mmol, 850.5 mg, 1.5 eq | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | THF | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 5-tert-butyl-2-[4-(2-methoxyethoxy)phenyl]-2H-pyrazol-3-ylamine | C(C)(C)(C)C=1C=C(N(N1)C1=CC=C(C=C1)OCCOC)N | C16H23N3O2
